US09371320B2
E) methyl 4-(4-cyano-3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxylate
A suspension of methyl 4-(4-bromo-3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxylate (65 mg), tetrakis(triphenylphosphine)palladium(0) (34.4 mg) and zinc cyanide (26.2 mg) in DMA (3 mL) was stirred under microwave irradiation at 120° C. for 30 min. To the reaction mixture were added ethyl acetate and water, and the mixture was filtered through Celite. The filtrate was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (40 mg).

reactant | methyl 4-(4-bromo-3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxylate | 65 mg | BrC1=C2C(=C(N=C1)OC)N(N=C2C2CCCC2)C=2C=C(SC2)C(=O)OC | C18H18BrN3O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 34.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 26.2 mg | [C-]#N.[Zn+2].[C-]#N
product | methyl 4-(4-cyano-3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)thiophene-2-carboxylate | 40 mg | C(#N)C1=C2C(=C(N=C1)OC)N(N=C2C2CCCC2)C=2C=C(SC2)C(=O)OC | C19H18N4O3S
